US08685980B2
A mixture of 2-Chloro-7-cyclopentyl-7H-pyrrolo[2,3-d]pyrimidine-6-carboxylic acid dimethylamide (225 mg, 0.77 mmol), 4-(6-aminopyridin-3-yl)-3-oxopiperazine-1-carboxylic acid tert-butyl ester (204 mg, 0.69 mmol), BINAP (24 mg, 0.038 mmol), palladium(II) acetate (6 mg, 0.027 mmol) and cesium carbonate (340 mg, 1.05 mmol) in dioxin (4 mL) is flushed with nitrogen and heated to 100° C. overnight. Additional palladium(II) acetate (6 mg, 0.027 mmol) and BINAP (24 mg, 0.038) are added and heating is continued at 110° C. for 2 h at which point LCMS and TLC analysis indicates completion of the reaction. The solvent is removed in vacuo and the residue is stirred in water with sonication in an ultrasonic bath. The suspension is filtered and the filter cake is washed with heptane. Drying in vacuo provides 4-[6-(7-Cyclopentyl-6-dimethylcarbamoyl-7H-pyrrolo[2,3-d]pyrimidin-2-ylamino)-pyridin-3-yl]-3-oxo-piperazine-1-carboxylic acid tert-butyl ester as a tan solid (350 mg, 83%) MS (ESI) m/z=549 [M+H]+.

reactant | 2-Chloro-7-cyclopentyl-7H-pyrrolo[2,3-d]pyrimidine-6-carboxylic acid dimethylamide | 0.77 mmol, 225 mg | CN(C(=O)C1=CC2=C(N=C(N=C2)Cl)N1C1CCCC1)C | C14H17ClN4O
reactant | 4-(6-aminopyridin-3-yl)-3-oxopiperazine-1-carboxylic acid tert-butyl ester | 0.69 mmol, 204 mg | C(C)(C)(C)OC(=O)N1CC(N(CC1)C=1C=NC(=CC1)N)=O | C14H20N4O3
reactant | cesium carbonate | 1.05 mmol, 340 mg | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | dioxin | 4 mL | O1C=COC=C1 | C4H4O2
catalyst | palladium(II) acetate | 0.027 mmol, 6 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
catalyst | palladium(II) acetate | 0.027 mmol, 6 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
catalyst | BINAP | 0.038 mmol, 24 mg | C=1C=CC(=CC1)P(C=2C=CC=CC2)C3=CC=C4C=CC=CC4=C3C5=C6C=CC=CC6=CC=C5P(C=7C=CC=CC7)C=8C=CC=CC8 | C44H32P2
catalyst | BINAP | 24 mg | C=1C=CC(=CC1)P(C=2C=CC=CC2)C3=CC=C4C=CC=CC4=C3C5=C6C=CC=CC6=CC=C5P(C=7C=CC=CC7)C=8C=CC=CC8 | C44H32P2
product | 4-[6-(7-Cyclopentyl-6-dimethylcarbamoyl-7H-pyrrolo[2,3-d]pyrimidin-2-ylamino)-pyridin-3-yl]-3-oxo-piperazine-1-carboxylic acid tert-butyl ester | 350 mg, 83% | C(C)(C)(C)OC(=O)N1CC(N(CC1)C=1C=NC(=CC1)NC=1N=CC2=C(N1)N(C(=C2)C(N(C)C)=O)C2CCCC2)=O | C28H36N8O4
